US09328121B1
(7) Phenylpyrazole-Based Compounds
acetoprole, ethiprole, fipronil, vaniliprole, pyripiole, and pyrafluprole.

reactant | acetoprole | CC(=O)C1=NN(C(=C1S(=O)C)N)C2=C(C=C(C=C2Cl)C(F)(F)F)Cl | C13H10Cl2F3N3O2S
reactant | ethiprole | CC[S+](C=1C(=NN(C1N)C=2C(=CC(=CC2Cl)C(F)(F)F)Cl)C#N)[O-] | C13H9Cl2F3N4OS
reactant | fipronil | C=1C(=CC(=C(C1Cl)N2C(=C(C(=N2)C#N)[S+](C(F)(F)F)[O-])N)Cl)C(F)(F)F | C12H4Cl2F6N4OS
reactant | vaniliprole | COC1=C/C(=C/NC2=C(C(=NN2C3=C(C=C(C=C3Cl)C(F)(F)F)Cl)C#N)SC(F)(F)F)/C=CC1=O | C20H10Cl2F6N4O2S
reactant | pyrafluprole | C1=CN=C(C=N1)CNC2=C(C(=NN2C3=C(C=C(C=C3Cl)C(F)(F)F)Cl)C#N)SCF | C17H10Cl2F4N6S
product | Phenylpyrazole | C1(=CC=CC=C1)C1=NNC=C1 | C9H8N2
